US09238640B2
To a solution of 1-(4-hydroxy-piperidin-1-yl)-ethanone (1.00 g, 6.90 mmol), 4-hydroxybenzaldehyde (0.854 g, 6.90 mmol) and triphenylphosphine (1.83 g, 6.90 mmol) in THF (10 mL) was added dropwise diisopropyl azodicarboxylate (DIAD) (1.41 g, 6.90 mmol). The reaction mixture was stirred at room temperature for 16 hours, THF was evaporated, and the residue was purified by column chromatography, using dichloromethane:ethyl acetate:methanol (1:2:0.05) as eluent, to give 4-(1-acetyl-piperidin-4-yloxy)-benzaldehyde. Yield: 0.40 g (23%).

reactant | 1-(4-hydroxy-piperidin-1-yl)-ethanone | 6.90 mmol, 1.00 g | OC1CCN(CC1)C(C)=O | C7H13NO2
reactant | 4-hydroxybenzaldehyde | 6.90 mmol, 0.854 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 6.90 mmol, 1.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 6.90 mmol, 1.41 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1-acetyl-piperidin-4-yloxy)-benzaldehyde | C(C)(=O)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C14H17NO3
